US06452014B1
To a solution of diisopropylamine (0.67 mL, 4.8 mmol) in tetrahydrofuran (6 mL) was added n-butyllithium (1.6 mol/L in hexanes; 2.7 mL, 4.3 mmol) at 0° C. under nitrogen atmosphere, and the reaction mixture was cooled to −78° C. 2-(4-Bromothiophen-2-yl)-5,6-dichlorobenzimidazole (500 mg, 1.44 mmol) in tetrahydrofuran (14 mL) was added dropwise followed by the addition of dimethylformamide (0.33 mL, 4.3 mmol), and the mixture was stirred for 30 min. Water and hydrochloric acid (1 mol/L) were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was triturated with ethyl acetate to afford 2-(3-bromo-2-formylthiophen-5-yl)-5,6-dichlorobenzimidazole (296 mg, 55%).

reactant | diisopropylamine | 4.8 mmol, 0.67 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 4.3 mmol, 1.6 mol/L, 2.7 mL | C(CCC)[Li]
reactant | 2-(4-Bromothiophen-2-yl)-5,6-dichlorobenzimidazole | 1.44 mmol, 500 mg | BrC=1C=C(SC1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C11H5BrCl2N2S
reactant | dimethylformamide | 4.3 mmol, 0.33 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(3-bromo-2-formylthiophen-5-yl)-5,6-dichlorobenzimidazole | 296 mg, 55% | BrC1=C(SC(=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl)C=O | C12H5BrCl2N2OS
